US04105790
A mixture of 4-acetylphenoxyacetic acid (20.0g.), n-hexanol (10.5g.) and concentrated sulphuric acid (2ml.) in benzene (100ml.) was heated under reflux for 6 hours using a water separator.cThe mixture was then evaporated and the residue dissolved in n-pentane (50ml.). The solution was washed with water (3 × 30ml.) sodium bicarbonate solution (1 × 50ml.) and water again (1 × 50ml.). The solution was evaporated and the residue chromatographed on alumina to give n-hexyl 4-acetylphenoxyacetate, I.R. peaks at 1760 and 1680 cm-1.

reactant | 4-acetylphenoxyacetic acid | 20.0g | C(C)(=O)C1=CC=C(OCC(=O)O)C=C1 | C10H10O4
reactant | n-hexanol | 10.5g | C(CCCCC)O | C6H14O
reactant | sulphuric acid | 2ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | benzene | 100ml | C1=CC=CC=C1 | C6H6
product | n-hexyl 4-acetylphenoxyacetate | C(C)(=O)C1=CC=C(OCC(=O)OCCCCCC)C=C1 | C16H22O4
